US07094798B1
Maleimide (4.82 g, 0.050 mol) was added to a solution of benzyl (2E)-3-(5-methoxy-1H-indol-2-yl)-2-propenoate, (12.71 g, 0.041 mol) prepared as in example 1 in THF (150 mL) in a 250 mL flat-bottomed flask and the mixture was stirred until homogeneous. The THF was removed in vacuo and the residue dried under high vacuum for 30 min. The flask was immersed in a 175° C. oil bath and the mixture was stirred at this temperature for 3 h. The solid melt was cooled to room temperature and ethyl acetate (100 mL) was added. The solid mass was partially broken up with a spatula and the mixture was stirred vigorously overnight, after which time the product (3) was present as a cream precipitate. Filtration followed by washing with diethyl ether gave benzyl 9-methoxy-1,3-dioxo-1,2,3,3a,4,5,6,10c-octahydropyrrolo[3,4-c]carbazole-4-carboxylate (13.76 g, 83%), mp 179–181° C. 1H NMR δ [(CD3)2SO] 10.98 (br s, 1H), 10.87 (s, 1H), 7.45–7.32 (m, 5H), 7.20 (d, J=2.4 Hz, 1H), 7.17 (d, J=8.7 Hz, 1H), 6.69 (dd, J=8.7, 2.4 Hz, 1H), 5.21 (s, 1H), 4.22 (br d, J=7.8 Hz, 1H), 4.14 (dd, J=7.8, 4.2 Hz, 1H), 3.75 (s, 3H), 3.19–3.13 (m, 1H), 3.00 (dd, J=16.5, 4.8 Hz, 1H), 2.79–2.70 (m, 1H).

reactant | Maleimide | 0.050 mol, 4.82 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | benzyl (2E)-3-(5-methoxy-1H-indol-2-yl)-2-propenoate | 0.041 mol, 12.71 g | COC=1C=C2C=C(NC2=CC1)/C=C/C(=O)OCC1=CC=CC=C1 | C19H17NO3
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | benzyl 9-methoxy-1,3-dioxo-1,2,3,3a,4,5,6,10c-octahydropyrrolo[3,4-c]carbazole-4-carboxylate | 13.76 g, 83% | COC1=CC=2C=3C4C(C(CC3NC2C=C1)C(=O)OCC1=CC=CC=C1)C(NC4=O)=O | C23H20N2O5
